US05565479
2-[3-(1-Imidazolyl)propyl]-8H-indeno[1,2-d]thiazole dihydrochloride
Starting compounds: 2-bromo-1-indanone, 4-(1-imidazolyl)butanethioamide hydrochloride

reactant | 2-bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 4-(1-imidazolyl)butanethioamide hydrochloride | Cl.N1(C=NC=C1)CCCC(N)=S
product | 2-[3-(1-Imidazolyl)propyl]-8H-indeno[1,2-d]thiazole dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCC=1SC2=C(N1)C=1C=CC=CC1C2 | InChI=1S/C16H15N3S.2ClH/c1-2-5-13-12(4-1)10-14-16(13)18-15(20-14)6-3-8-19-9-7-17-11-19;;/h1-2,4-5,7,9,11H,3,6,8,10H2;2*1H
